US06887890B2
Synthesis of tris[4-[N-[2-(2-methyl-1H-indol-3-yl)acetyl]-α-L-glutamyl]aminophenyl]methane
A methanol solution containing trifluoroacetic acid (40%, 6 ml) was added to the tris[4-[β-t-butoxycarbonylmethyl-N-[2-(2-methyl-1H-indol-3-yl)acetyl]-L-alanyl]aminophenyl]methane (50 mg) at room temperature, and the mixture was stirred at room temperature for 2 hours. The reaction solution was concentrated under reduced pressure, a portion of the residue was purified by preparative high performance liquid chromatography using methanol/trifluoroacetic acid (100/0.1) and water/trifluoroacetic acid (100/0.1) as a mixed eluent, to obtain 2.0 mg of the title compound.

reactant | trifluoroacetic acid | 6 ml | FC(C(=O)O)(F)F | C2HF3O2
reactant | tris[4-[β-t-butoxycarbonylmethyl-N-[2-(2-methyl-1H-indol-3-yl)acetyl]-L-alanyl]aminophenyl]methane | 50 mg | C(C)(C)(C)OC(=O)CC[C@H](NC(CC1=C(NC2=CC=CC=C12)C)=O)C(=O)NC1=CC=C(C=C1)C(C1=CC=C(C=C1)NC([C@@H](NC(CC1=C(NC2=CC=CC=C12)C)=O)CCC(=O)OC(C)(C)C)=O)C1=CC=C(C=C1)NC([C@@H](NC(CC1=C(NC2=CC=CC=C12)C)=O)CCC(=O)OC(C)(C)C)=O | C79H91N9O12
solvent | methanol | CO | CH4O
product | tris[4-[N-[2-(2-methyl-1H-indol-3-yl)acetyl]-α-L-glutamyl]aminophenyl]methane | 2.0 mg | CC=1NC2=CC=CC=C2C1CC(=O)N[C@@H](CCC(O)=O)C(=O)NC1=CC=C(C=C1)C(C1=CC=C(C=C1)NC([C@@H](NC(CC1=C(NC2=CC=CC=C12)C)=O)CCC(O)=O)=O)C1=CC=C(C=C1)NC([C@@H](NC(CC1=C(NC2=CC=CC=C12)C)=O)CCC(O)=O)=O | C67H67N9O12
